US09303002B2
5,5′-(hexane-1,6-diyl)bis(1,3,4-thiadiazol-2-amine) (I-60)
The title compound was synthesized from octanedioic acid I-59 and thiosemicarbazide by following the general procedure as described for compound I-2.

reactant | octanedioic acid | C(CCCCCCC(=O)O)(=O)O | C8H14O4
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
product | 5,5′-(hexane-1,6-diyl)bis(1,3,4-thiadiazol-2-amine) | C(CCCCCC1=NN=C(S1)N)C1=NN=C(S1)N | C10H16N6S2
